US05242918
a) 5-nitro-α-tetralone
10 ml (75 mmol) of α-tetralone was added dropwise to 7.6 g (75 mmol) of potassium nitrate dissolved in 75 ml of concentrated sulfuric acid (at -10° C.). The resulting mixture was poured onto ice and the precipitate was suspended in ether. The precipitate (the 7 nitro isomer) was filtered off and the ether solution was evaporated. The residue was purified by column chromatography on silica gel. Yield: 4.7 g of the title compound, M.p. 94°-96° C.

reactant | α-tetralone | 75 mmol, 10 ml | C1CC2=CC=CC=C2C(=O)C1 | C10H10O
reactant | potassium nitrate | 75 mmol, 7.6 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 75 ml | S(O)(O)(=O)=O | H2O4S
solvent | ether | CCOCC | C4H10O
product | 5-nitro-α-tetralone | C1CC2=C(C=CC=C2[N+](=O)[O-])C(=O)C1 | C10H9NO3
